US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-1-formylhexahydro-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide
As described for example 213, [(3R)-1-formylhexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 445 (M++1). 1H NMR (CDCl3): δ 1.30 (m, 1H), 1.65 (m, 1H), 1.80˜2.30 (m, 4H), 3.09 (dd, 1H), 3.14 (m, 4H), 3.68 (m, 4H), 4.62 (br.dd, 1H), 4.82 (ddd, 1H), 4.90 (br.s, 2H), 5.84 (d, 1H), 6.16 (s, 1H), 7.18 (dd, 1H), 7.62 (d, 1H), 7.72 (d, 1H), 9.47 (s, 1H).

reactant | [(3R)-1-formylhexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester | CC(C)(C)OC(N[C@H]1C(N(CCCC1)C=O)=O)=O | C12H20N2O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-1-formylhexahydro-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)C=O)=O)Cl | C21H25ClN6O3
